US07354942B2
3-((2-Amino-2-methyl-3-phenylpropoxy)methyl)-5-(1-cyanocyclopentyl)-N-((R)-1-phenylethyl)benzamide
Prepared from 3-((2-tert-butoxycarbonylamino-2-methyl-3-phenylpropoxy)methyl)-5-(1-cyanocyclopentyl)benzoic acid and (R)-1-phenylethanamine using a similar procedure as described for the preparation of Example 20. HRMS ES calculated for C32H37N3O2: 496.2959, found: 496.2958.

reactant | 3-((2-tert-butoxycarbonylamino-2-methyl-3-phenylpropoxy)methyl)-5-(1-cyanocyclopentyl)benzoic acid | C(C)(C)(C)OC(=O)NC(COCC=1C=C(C(=O)O)C=C(C1)C1(CCCC1)C#N)(CC1=CC=CC=C1)C | C29H36N2O5
reactant | (R)-1-phenylethanamine | C1(=CC=CC=C1)[C@@H](C)N | C8H11N
product | 3-((2-Amino-2-methyl-3-phenylpropoxy)methyl)-5-(1-cyanocyclopentyl)-N-((R)-1-phenylethyl)benzamide | NC(COCC=1C=C(C(=O)N[C@H](C)C2=CC=CC=C2)C=C(C1)C1(CCCC1)C#N)(CC1=CC=CC=C1)C | C32H37N3O2
